US09056859B2
Compound tert-butyl 4-[(7-cyano-2,3-dihydro-1-benzofuran-3-yl)methyl]piperazine-1-carboxylate (76 mg, 0.22 mmol) was added HCl/dioxane (4 N) and the resulting mixture was stirred at room temperature for 3 hours, and then the solvents were removed under vacuum to give the crude 3-(piperazin-1-ylmethyl)-2,3-dihydro-1-benzofuran-7-carbonitrile hydrochloride.

reactant | tert-butyl 4-[(7-cyano-2,3-dihydro-1-benzofuran-3-yl)methyl]piperazine-1-carboxylate | 0.22 mmol, 76 mg | C(#N)C1=CC=CC=2C(COC21)CN2CCN(CC2)C(=O)OC(C)(C)C | C19H25N3O3
reactant | HCl dioxane | 4 N | Cl.O1CCOCC1
product | 3-(piperazin-1-ylmethyl)-2,3-dihydro-1-benzofuran-7-carbonitrile hydrochloride | Cl.N1(CCNCC1)CC1COC2=C1C=CC=C2C#N | InChI=1S/C14H17N3O.ClH/c15-8-11-2-1-3-13-12(10-18-14(11)13)9-17-6-4-16-5-7-17;/h1-3,12,16H,4-7,9-10H2;1H
